US07652049B2
(4S,5R)-3-[(4-amino-2′-chloro-5′-isopropylbiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one
A solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(2′-chloro-5′-isopropyl-4-nitrobiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (425 mg, 0.71 mmol) in methanol (10 mL) was subject to H2 (40 psi., Parr shaker) at 20° C. for 6 h. The crude mixture was filtered through a bed of Celite (521). The filtrate was evaporated in vacuo to afford a glass. The titled compound was obtained after a preparative TLC plate developed by 20% EtOAc in hexanes. LC-MS: 571.22 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 6:4 mixture of rotamers δ 7.82-7.86 (m, 1H), 7.65-7.71 (m, 2H), 7.34-7.38 (m, 1H), 7.11-7.17 (m, 2H), 7.02-7.06 (m, 1H), 6.76-6.82 (m, 1H), 6.68-6.74 (m, 1H), 5.58 (d, J=8.0 Hz, 0.4H), 5.51 (d, J=8.2 Hz, 0.6H), 4.82 (d, J=15.3 Hz, 0.6H), 4.70 (d, J=15.6 Hz, 0.4H), 3.69-4.00 (m, 4H), 2.84-2.94 (m, 1H), 1.19-1.28 (m, 6H), 0.45 (d, J=6.6 Hz, 1.2H), 0.40 (d, J=6.6 Hz, 1.8H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(2′-chloro-5′-isopropyl-4-nitrobiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 0.71 mmol, 425 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=CC(=C1)C(C)C)Cl)C)(F)F | C28H23ClF6N2O4
solvent | methanol | 10 mL | CO | CH4O
product | (4S,5R)-3-[(4-amino-2′-chloro-5′-isopropylbiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | NC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)Cl)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C28H25ClF6N2O2
